US04820712
N-(tert.-butyloxycarbonyl)-L-proline methyl ester (4g)
This compound was prepared in quantitative yield from the hydrochloride of L-proline methyl ester (24.9 g, 0.15 mol) by treatment with di-tert.-butyl pyrocarbonate following the procedure that has been described earlier1,2. TLC Rf 0.83 (eluent MeOH,CHCl3, 3/97). 1H NMR (CDCl3) δ 1.44 (s, 9H, t-Bu), 1.82-2.37 (m, 4H, CH2CH2CH), 3.33-3.65 (m, 2H, CH2N), 3.73 (s, 3H, CO2CH3), 4.04-4.45 (m, 1H, CHCO2CH3).

reactant | hydrochloride | Cl | ClH
reactant | L-proline methyl ester | 0.15 mol, 24.9 g | COC([C@H]1NCCC1)=O | C6H11NO2
reactant | di-tert.-butyl pyrocarbonate | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
product | N-(tert.-butyloxycarbonyl)-L-proline methyl ester | quantitative yield | COC([C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C11H19NO4
